US05688808
To 300 mL of CH2Cl2 was added 3-nitrophenol (structure 64 of Scheme XVII, where R1 =H, Y=O) (15 g, 0.11 mol), pyridine (20 mL) and DMAP (10 mg). To this cooled solution (0° C.) was slowly added trimethylacetyl chloride (18 mL, 146 mmol, 1.4 equivuiv). The solution was allowed to warm to rt and stirred for 3 h. To the amber colored solution was added sat'd NH4Cl (300 mL). The organic layer was washed with 1N HCl (2×150 mL), 10% CuSO4.5 H2O (2×100 mL), and brine (2×100 mL). The extract was dried (Na2SO4) and concentrated in vacuo to give 22.5 g (94%) of O-pivaloyl-3-nitrophenol as a white solid. Data for O-pivaloyl-3-nitrophenol: Rf 0.55 (silica gel, hexanes/EtOAc, 3:1); 1H NMR (400 MHz, CDCl3) 8.11 (dd, J=4.2, 1.3, 1H), 7.96 (t, J=2.2, 1H), 7.56 (dd, J=8.4, 8.2, 1H), 7.42 (dd, J=6.5, 1.3, 1H), 1.35 (s, 9H).

reactant | CH2Cl2 | 300 mL | C(Cl)Cl | CH2Cl2
reactant | 3-nitrophenol | [N+](=O)([O-])C=1C=C(C=CC1)O | C6H5NO3
reactant | trimethylacetyl chloride | 146 mmol, 18 mL | CC(C(=O)Cl)(C)C | C5H9ClO
reactant | NH4Cl | 300 mL | [NH4+].[Cl-]
catalyst | DMAP | 10 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
product | O-pivaloyl-3-nitrophenol | 22.5 g, 94% | C(C(C)(C)C)(=O)OC1=CC(=CC=C1)[N+](=O)[O-] | C11H13NO4
